US06294558B1
3-Fluoro-4-(1,3-thiazol-4-yl)phenyl trifluoromethanesulfonate (step 4)
To a stirred solution of 3-fluoro-4-(1,3-thiazol-4-yl)phenol (864 mg, 4.43 mmol) in CH2Cl2 (27 ml) was added 2,6-lutidine (570 mg, 5.32 mmol), 4-dimethylaminopyridine (108 mg, 0.89 mmol), trifluoromethanesulfonic anhydride (1.5 g, 5.32 mmol) at −30° C., and the mixture was stirred for 1 hour, and then allowed to warm up to room temperature for 2 hours. The reaction mixture was diluted with water and the whole was extracted with CH2Cl2. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo, and the residue was used for next reaction without further purification. (1.45 g, 99% yield).

reactant | 3-fluoro-4-(1,3-thiazol-4-yl)phenol | 4.43 mmol, 864 mg | FC=1C=C(C=CC1C=1N=CSC1)O | C9H6FNOS
reactant | 2,6-lutidine | 5.32 mmol, 570 mg | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 5.32 mmol, 1.5 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 27 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.89 mmol, 108 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | 3-Fluoro-4-(1,3-thiazol-4-yl)phenyl trifluoromethanesulfonate | 99% yield | FC(S(=O)(=O)OC1=CC(=C(C=C1)C=1N=CSC1)F)(F)F | C10H5F4NO3S2
